US06451781B1
e) Methyl 4-(7,12-dihydroxy-3-{2-[2-(4-hydroxyphenyl)acetylamino]ethoxy}-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl)pentanoate
700 mg of methyl 4-[3-(2-aminoethoxy)-7,12-dihydroxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl]pentanoate, 230 mg of 4-hydroxyphenylacetic acid and 305 mg of HOBT are dissolved in 10 ml of THF and a solution of 342 mg of DCC in 10 ml of THF is injected at 0° C. The mixture is stirred at 0° C. for one hour and then at RT for 25 hours. The precipitate is filtered off, the filtrate is diluted with 150 ml of a 10% aqueous NaHCO3 solution and the mixture is extracted three times with 100 ml of EA each time. The extract is dried over Na2SO4 and the solvent is removed in vacuo. Chromatography on silica gel using EA/MeOH 10:1 yields 660 mg of a colorless oil.

reactant | methyl 4-[3-(2-aminoethoxy)-7,12-dihydroxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl]pentanoate | 700 mg | NCCOC1CCC2(C3CC(C4(C(CCC4C3C(CC2C1)O)C(CCC(=O)OC)C)C)O)C | C27H47NO5
reactant | 4-hydroxyphenylacetic acid | 230 mg | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | HOBT | 305 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 342 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Methyl 4-(7,12-dihydroxy-3-{2-[2-(4-hydroxyphenyl)acetylamino]ethoxy}-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl)pentanoate | 660 mg | OC1CC2CC(CCC2(C2CC(C3(C(CCC3C12)C(CCC(=O)OC)C)C)O)C)OCCNC(CC1=CC=C(C=C1)O)=O | C35H53NO7
